*////////////////////////////////////////////////////////////////////// 
* (C) National Semiconductor, Inc. 
* Models developed and under copyright by: 
* National Semiconductor, Inc. 

*///////////////////////////////////////////////////////////////////// 
* Legal Notice: This material is intended for free software support. 
* The file may be copied, and distributed; however, reselling the 
* material is illegal 

*//////////////////////////////////////////////////////////////////// 
* For ordering or technical information on these models, contact: 
* National Semiconductor's Customer Response Center 
* 7:00 A.M.--7:00 P.M. U.S. Central Time 
* (800) 272-9959 
* For Applications support, contact the Internet address: 
* amps-apps@galaxy.nsc.com 

*////////////////////////////////////////////////////////// 
*LM741 OPERATIONAL AMPLIFIER MACRO-MODEL 
*////////////////////////////////////////////////////////// 
* 
* connections: non-inverting input 
* | inverting input 
* | | positive power supply 
* | | | negative power supply 
* | | | | output 
* | | | | | 
* | | | | | 
.SUBCKT LM741 1 2 99 50 28 
* 
*Features: 
*Improved performance over industry standards 
*Plug-in replacement for LM709,LM201,MC1439,748 
*Input and output overload protection 
* 
****************INPUT STAGE************** 
* 
IOS 2 1 20N 
*^Input offset current 
R1 1 3 250K 
R2 3 2 250K 
I1 4 50 100U 
R3 5 99 517 
R4 6 99 517 
Q1 5 2 4 QX 
Q2 6 7 4 QX 
*Fp2=2.55 MHz 
C4 5 6 60.3614P 
* 
***********COMMON MODE EFFECT*********** 
* 
I2 99 50 1.6MA 
*^Quiescent supply current 
EOS 7 1 POLY(1) 16 49 1E-3 1 
*Input offset voltage.^ 
R8 99 49 40K 
R9 49 50 40K 
* 
*********OUTPUT VOLTAGE LIMITING******** 
V2 99 8 1.63 
D1 9 8 DX 
D2 10 9 DX 
V3 10 50 1.63 
* 
**************SECOND STAGE************** 
* 
EH 99 98 99 49 1 
G1 98 9 5 6 2.1E-3 
*Fp1=5 Hz 
R5 98 9 95.493MEG 
C3 98 9 333.33P 
* 
***************POLE STAGE*************** 
* 
*Fp=30 MHz 
G3 98 15 9 49 1E-6 
R12 98 15 1MEG 
C5 98 15 5.3052E-15 
* 
*********COMMON-MODE ZERO STAGE********* 
* 
*Fpcm=300 Hz 
G4 98 16 3 49 3.1623E-8 
L2 98 17 530.5M 
R13 17 16 1K 
* 
**************OUTPUT STAGE************** 
* 
F6 50 99 POLY(1) V6 450U 1 
E1 99 23 99 15 1 
R16 24 23 25 
D5 26 24 DX 
V6 26 22 0.65V 
R17 23 25 25 
D6 25 27 DX 
V7 22 27 0.65V 
V5 22 21 0.18V 
D4 21 15 DX 
V4 20 22 0.18V 
D3 15 20 DX 
L3 22 28 100P 
RL3 22 28 100K 
* 
***************MODELS USED************** 
* 
.MODEL DX D(IS=1E-15) 
.MODEL QX NPN(BF=625) 
* 
.ENDS 
*$[/url] 